US08912188B2
To a solution of ethyl 2-(2-acetyl-4-bromophenoxy)acetate (8.9 g, 29.56 mmol) in THF (60 mL) was added sodium hydroxide (1.43 g, 35.75 mmol) and water (10 mL). The resulting solution was stirred overnight at room temperature and concentrated under vacuum. The residue was dissolved in water (30 mL) and adjusted to pH 2 with HCl (3N). The solids were collected by filtration to afford 2-(2-acetyl-4-bromophenoxy)acetic acid as a light yellow solid (6.3 g, 78%).

reactant | ethyl 2-(2-acetyl-4-bromophenoxy)acetate | 29.56 mmol, 8.9 g | C(C)(=O)C1=C(OCC(=O)OCC)C=CC(=C1)Br | C12H13BrO4
reactant | sodium hydroxide | 35.75 mmol, 1.43 g | [OH-].[Na+]
reactant | water | 10 mL | O | H2O
solvent | THF | 60 mL | C1CCOC1 | C4H8O
product | 2-(2-acetyl-4-bromophenoxy)acetic acid | 6.3 g, 78% | C(C)(=O)C1=C(OCC(=O)O)C=CC(=C1)Br | C10H9BrO4
